US08710043B2
Step 4b. 2-Oxo-1,2,4a,8a-tetrahydroquinoline-6-carboxylic Acid (57)
A solution of methyl 2-chloroquinoline-6-carboxylate (60 mg, 0.271 mmol) in THF/5 N aqueous HCl (1:1, 2 mL) was heated to 60° C. in a heating block. LCMS shows major product 86% peak area corresponding to title compound with hydrolysis of methyl ester (m/z=189.9). The reaction was concentrated and used in the subsequent amide coupling steps without further purification.

reactant | methyl 2-chloroquinoline-6-carboxylate | 0.271 mmol, 60 mg | ClC1=NC2=CC=C(C=C2C=C1)C(=O)OC | C11H8ClNO2
reactant | THF | 5 N, 2 mL | C1CCOC1 | C4H8O
product | 2-Oxo-1,2,4a,8a-tetrahydroquinoline-6-carboxylic Acid | O=C1NC2C=CC(=CC2C=C1)C(=O)O | C10H9NO3
